US06395737B1
f) [3-(4-Carbamimidoyl-phenyl)-2-(R,S)-dimethylcarbamoyl-propionylamino]-(S)-cyclohexyl-acetic Acid
[3-(4-Carbamimidoyl-phenyl)-2-(R,S)-dimethylcarbamoyl-propionylamino]-(S)-cyclohexyl-acetic acid methyl ester acetic acid salt (7 g, 14.7 mmol) was dissolved in a mixture of hydrochloric acid (50 ml) and water (50 ml). After 15 hours stirring at room temperature the mixture was evaporated and after addition of water lyophilized. The residue was purified by chromatography on Sephadex LH20 employing n-butanol (17): glacial acetic acid (1): water (2) as eluent. Pure fractions were combined. The solvent was evaporated, the residue was taken up in water and the aqueous solution was lyophilized. Yield: 4.5 g (76%); MS m/z: 403.3 (M+H)+.

reactant | [3-(4-Carbamimidoyl-phenyl)-2-(R,S)-dimethylcarbamoyl-propionylamino]-(S)-cyclohexyl-acetic acid methyl ester acetic acid salt | 14.7 mmol, 7 g | C(C)(=O)O.COC([C@H](C1CCCCC1)NC(C(CC1=CC=C(C=C1)C(N)=N)C(N(C)C)=O)=O)=O
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | [3-(4-Carbamimidoyl-phenyl)-2-(R,S)-dimethylcarbamoyl-propionylamino]-(S)-cyclohexyl-acetic Acid | C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N[C@H](C(=O)O)C1CCCCC1)C(N(C)C)=O | C21H30N4O4
